US07498325B2
c) 4-(2-aminophenyl)-1,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-2H-imidazol-2-one
A mixture of 3.0 g (7.68 mmol) of 4-[2-(acetylamino)phenyl]-1,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-2H-imidazol-2-one, 50 ml of 5 N sodium hydroxide solution and 25 ml of ethanol was refluxed for 3 hours. After cooling the organic phase was separated off, dried over sodium sulphate and evaporated down in vacuo. A colourless amorphous substance was obtained in a quantitative yield, Rf=0.53 (eluant: dichloromethane/methanol 9/1 v/v).

reactant | 4-[2-(acetylamino)phenyl]-1,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-2H-imidazol-2-one | 7.68 mmol, 3.0 g | C(C)(=O)NC1=C(C=CC=C1)C=1NC(N(C1)C1CCN(CC1)CC1=CC=CC=C1)=O | C23H26N4O2
reactant | sodium hydroxide | 5 N, 50 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(2-aminophenyl)-1,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-2H-imidazol-2-one | quantitative yield | NC1=C(C=CC=C1)C=1NC(N(C1)C1CCN(CC1)CC1=CC=CC=C1)=O | C21H24N4O
